US08084448B2
5-[4-(3,3-Dimethylbutyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and 3,3-dimethylbut-1-ene analogous to Example 300: (M−1)−=311; HPLC retention time=1.20 min (method A).

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 3,3-dimethylbut-1-ene | CC(C=C)(C)C | C6H12
product | 5-[4-(3,3-Dimethylbutyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | CC(CCC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O)(C)C | C14H20N2O4S
